2116-02-27 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with hypotension, tachypnea and altered
   mental status.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2116-2-26**] 08:25 PM
   CT torso completed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-2-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-2-27**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.7
C (98
   HR: 93 (91 - 108) bpm
   BP: 116/59(73) {99/47(60) - 139/82(89)} mmHg
   RR: 36 (19 - 36) insp/min
   SpO2: 98%
             Total In:
                                                                  3,050 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  3,050 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    530 mL
   Urine:
                                                                    170 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,880 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   GENERAL: A+O x3, speaking more fluently
   SKIN: warm and well perfused, no rashes
   HEENT: AT/NC, EOMI, PERRLA, no ocular deviation, anicteric sclera, pink
   conjunctiva, patent nares, MMM, supple neck, no LAD, no JVD
   CARDIAC: RRR, S1/S2, no mrg
   LUNG: Rhonchi and upper airway congestion
   ABDOMEN: Distended, tympanic, no ttp, no rebound, no guarding
   PULSES: 2+ DP pulses bilaterally
   NEURO: A+Ox3, diminished right UE strength on hand grip, symm LE
   strength.
   Labs / Radiology
   122 K/uL
   8.8 g/dL
   97 mg/dL
   2.3 mg/dL
   17 mEq/L
   5.2 mEq/L
   12 mg/dL
   122 mEq/L
   151 mEq/L
   26.1 %
   14.4 K/uL
        [image002.jpg]
                             [**2116-2-27**]  04:44 AM
   WBC
   14.4
   Hct
   26.1
   Plt
   122
   Cr
   2.3
   Glucose
   97
   Other labs: PT / PTT / INR:16.6/38.6/1.5, Ca++:7.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.6 mg/dL
   Imaging:  CHEST (PORTABLE AP) Study Date of [**2116-2-26**] 4:02 PM
   FINDINGS: As compared to the previous examination, the extent of the
   left-sided atelectasis has decreased. No newly appeared focal
   parenchymal opacity suggestive of pneumonia. Unchanged size of the
   cardiac silhouette, no evidence of pleural effusions. Unchanged course
   of the left-sided Port-A-Cath.
   Microbiology: URINE CULTURE (Final [**2116-2-22**]):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 ORGANISMS/ML..
            SENSITIVITIES PERFORMED ON CULTURE # 268-9409F ON [**2116-2-18**].
         CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    >100,000
   ORGANISMS/ML..
   .
   [**2116-2-18**] 12:51 pm URINE      Source: Catheter.
                               **FINAL REPORT [**2116-2-20**]**
      URINE CULTURE (Final [**2116-2-20**]):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    10,000-100,000
   ORGANISMS/ML..
            COAG NEG STAPH does NOT require contact precautions,
   regardless of
            resistance.
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations.
            Staphylococcus species may develop resistance during prolonged
            therapy with quinolones.   Therefore, isolates that are
   initially
            susceptible may become resistant within three to four days
   after
            initiation of therapy.  Testing of repeat isolates may be
            warranted.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPHYLOCOCCUS, COAGULASE NEGATIVE
                                |
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------<=0.12 S
   NITROFURANTOIN--------  <=16 S
   OXACILLIN-------------   =>4 R
   TETRACYCLINE----------     2 S
   VANCOMYCIN------------     2 S
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with hypotension, tachypnea and altered mental status.
   .
   #. HYPOTENSION: Suspect dehydration in the setting of ongoing UTI, less
   likely sepsis secondary to UTI.
   -- Broad spectrum antibiotics; Vanc and Zosyn for suspected
   intra-abdominal source
   -- Now appears euvolemic, normotensive with IVF overnight
   -- U/o robust
   -- F/u Pan culture
   -- If cx negative x48h would consider d/c Zosyn as UTI sensitive to
   vanc
   # Leukocytosis: Unclear if the pt
s new Leukocytosis can be attributed
   to infection as the pt received Neupogen on [**2116-2-20**].
   -- Trend WBC
   --Treat UTI as above.
   .
   # Altered mental status: Suspect dilatin toxicity. Currently holding
   dilantin.
   -- F/u with neuro-onc re: dosing of dilantin.
   # Abdominal distention: Likely secondary to several days of
   constipation. CT findings non-specific, abdominal exam non-tender.
   # Syncope/Seizure: Continue Keppra, currently holding dilantin given
   supra-therpeutic levels (in setting of hypoalbuminemia)
   .
   # Acute on chronic renal insufficiency: Baseline appears to be 1-1.3
   and Cr currently 2.3, ddx includes ATN, AIN or prerenal azotemia.
   -- Follow up urine lytes
   # Hypernatremia: Free water deficit of 3.5L.
   - Replete with D5W at 100cc/hr for goal adjustment of 0.5mEq/hr
   .
   # Anemia: Likely anemia of chronic inflammation.
   -- F/u iron studies.
   .
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement.
   -- Neupogen on [**2116-2-20**].
   .
   # HTN: Holding all antihypertensives.
   -- If stable would consider restarting in a stepwise fashion
   .
   FEN: Mental status now improved so restarting PO
   -- Nurse [**First Name (Titles) **] [**Last Name (Titles) **] whether pt needs S+S study (per nurse [**First Name (Titles) **] [**Last Name (Titles) 5243**] PO
   meds but SLOWLY)
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: Full
   .
   DISPOSITION: ICU for now
   .
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-26**] 08:25 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2116-02-28 13:11:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   patient well known to MICU team, transferred to oncology service late
   yesterday afternoon.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - STOP [**2116-2-27**] 05:49 PM
   Overnight had tachypneic episodes without desaturations
   This morning noted to be somnolent and minimally responsive with
   noxious stimuli
   ABG obtained which was 7.39/32/66 on room air
   Head CT:  preliminary [**Location (un) 118**] right anterior periventricular density
   stable; ?hypodensity in right frontal lobe
   Had received 1 mg IV MS04, 0.25 mg IV ativan around 1 am
   History obtained from healthcare team
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-2-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-2-27**] 04:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-2-27**] 04:12 PM
   Other medications:
   folate
   MVI
   methadopa
   nystatin
   zofran
   keppra
   subcutaneous heparin
   albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: minimally responsive to sternal rub
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-2-28**] 01:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 82 (79 - 90) bpm
   BP: 144/74(92) {97/18(31) - 144/94(98)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,077 mL
                                                                    217 mL
   PO:
             TF:
   IVF:
                                                                  1,077 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    270 mL
   Urine:
                                                                  1,830 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -753 mL
                                                                    -53 mL
   Respiratory support
   SpO2: 96%
   ABG: 7.38/32/86/20/-4
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: pinpoint bilaterally
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: scattered)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, minimally responsive to sternal rub
   Labs / Radiology
   7.8 g/dL
   150 K/uL
   162 mg/dL
   2.7 mg/dL
   20 mEq/L
   4.0 mEq/L
   15 mg/dL
   120 mEq/L
   149 mEq/L
   22.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2116-2-27**]  04:44 AM
                             [**2116-2-28**]  10:53 AM
                             [**2116-2-28**]  11:09 AM
   WBC
   14.4
   12.4
   Hct
   26.1
   22.9
   Plt
   122
   150
   Cr
   2.3
   2.7
   TCO2
   20
   Glucose
   97
   162
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Lactic Acid:1.5 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: 7.38/32/86 on 2 L NC
   free Ca 1.08
   dilantin 15.3
   Imaging: CXR: no infiltrates, CHF
   Microbiology: UCx: coag neg staph ([**2-22**])
   BCx: NGTD
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER:  Diffuse B cell lymphoma with CNS
   involvement.  Previously unremarkable LP.  Repeat head CT shows ?
   hypodense lesion in right frontal lobe.  Waiting for final read.
DELERIUM/UNRESPONSIVENESS:  It remains unclear as to etiology of her
   intermittent alterations in mental status albeit likely
   multifactorial.  Is still supratherapeutic on dilantin.  Also receiving
   keppra with worsening renal function, may be contributing as well.  [**Month (only) 8**]
   be related to narcotics/benzodiazepines given overnight.  Holding
   sedating medications.  Also possible seizures, continuous  EEG
   planned.  Not clear what new hypodensity seen on preliminary read, need
   to review with neuroradiologist.  Doubt CNS infecdtion given recent
   unremarkable LP findings.  Hypernatremia may also contribute.  Decrease
   keppra dose. Continue to hold dilantin and follow levels.  Keep HOB
   elevated at 30 degrees for aspiration precautions, monitor in ICU to be
   sure she is not in status or having intermittent seizures with
   continuous EEG monitoring.
HYPERNATREMIA:  Calculate free water deficit, replace half of deficit
   in next 24 hours, serial electrolytes.
ANEMIA: Hct decreased, may be dilutional as she did receive some
   IVFs.  Will GAS, check repeat Hct in 6 hours. PPI.
RENAL FAILURE:  Cr continues to increase.  Likely in part due to prior
   hypotension and component of ATN.  Volume status not clear.  [**Month (only) 8**] be
   prerenal.  Send urine electrolytes, sediment.  Renal US to rule out
   obstructing lesion.  Consult renal.  Check random vanco.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2116-02-29 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with resolved hypotension, tachypnea,
   now with profound obtundation and altered mental status.
   24 Hour Events:
 EEG - At [**2116-2-28**] 12:37 PM
   continuous
 INDWELLING PORT (PORTACATH) - START [**2116-2-28**] 12:41 PM
 ULTRASOUND - At [**2116-2-28**] 04:19 PM
   - Renal: check random vanc, check Na [**Last Name (un) 5285**]
   - random vanc level 4, held vanc
   - Na still 150 went up on D5W to 150cc/h
   - repeat Hct stable 24
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-2-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-2-27**] 04:12 PM
   Piperacillin - [**2116-2-29**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-2-29**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-2-29**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 91 (73 - 94) bpm
   BP: 98/47(59) {98/46(59) - 151/97(117)} mmHg
   RR: 27 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,549 mL
                                                                  1,259 mL
   PO:
             TF:
   IVF:
                                                                  1,549 mL
                                                                  1,259 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    825 mL
   Urine:
                                                                  1,395 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.38/32/86/19/-4
   Physical Examination
   GENERAL: Obtunded African American female, not responsive to voice.
   During CT scan revealed spontaneous movement of head and extremities,
   now only responding to deep sternal rub.
   SKIN: warm and well perfused, no rashes
   HEENT: AT/NC, EOMI, PERRLA, gaze slightly diconjugate with left eye
   outwardly deviated. anicteric sclera, pink conjunctiva, patent nares,
   MMM, supple neck, no LAD, no JVD
   CARDIAC: RRR, S1/S2, no mrg
   LUNG: Rhonchi and upper airway congestion
   ABDOMEN: Distended, hyperechoic, no grimmacing on palpation.
   PULSES: 2+ DP pulses bilaterally
   NEURO: Negative Dolls eye reflex, not withdrawing to pain on upper or
   lower extremities.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse:
   Labs / Radiology
   190 K/uL
   8.3 g/dL
   100 mg/dL
   2.9 mg/dL
   19 mEq/L
   4.1 mEq/L
   15 mg/dL
   120 mEq/L
   150 mEq/L
   24.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2116-2-27**]  04:44 AM
                             [**2116-2-28**]  10:53 AM
                             [**2116-2-28**]  11:09 AM
                             [**2116-2-28**]  08:53 PM
   WBC
   14.4
   12.4
   15.1
   Hct
   26.1
   22.9
   24.4
   Plt
   122
   150
   190
   Cr
   2.3
   2.7
   2.9
   TCO2
   20
   Glucose
   97
   162
   100
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Lactic Acid:1.5 mmol/L,
   Albumin:2.5 g/dL, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   .
   #. UNRESPONSIVENESS: Given known CNS lymphoma, concerning for
   hemorrhagic event or critical mass effect. These however appear
   unlikely given overall regression on prior imaging and lack of systemic
   anticoagulation. Seizure also likely cause, although no movemet of
   limbs or eyes has been noted. Patient continues on Keppra and is
   therapeutic on Dilantin. Most likely multifactorial with strong
   contribution from low dose IV Ativan and IV Morphine given for
   tachypnea. Would also consider Keppra as contributor as patient was
   receiving 750mg Q12H in spite of worsening renal function and GFR.
   Otherwise pt has been hypernatremic to 150, not responsive of 2L of
   free water. Pt may have Central DI.
   - Keppra decreased dose to 500mg
   - D/c
d Vanco given high random level of 44
   - Yesterday (Dilantin correction = measured level / [ (0.2 x albumin) +
   0.1],  =25.5, will recheck today
   # Hypernatremia
 currently 150, Pt received D5W @ 150ml/h about 2L
   worth, w/o any change in Na level, continue to be 150. Pt may be
   starting to have Central DI.
   - renal wants to try DDVAP to check for DI
   - continue fluids at current rate D5W @ 150ml/h
   .
   # CKD: Baseline appears to be 1-1.3 and Cr currently 2.5. FeNa 4%
   likely ATN.- pt transiently hypotensive 36hrs ago, timing of renal
   injury preceeded this event. Urine sediment without EOS.No recent
   contrast dye load. Amyloidosis also possible w/ elevated
   b2-microglobulin, hyperglossia, ARF.
   - Renal US negative
   - F/u renal recs
   - Renally dose medications (Keppra, Abx)
   # UTI/Cystitis: No further positive blood cultures, last specimen coag
   negative staph (pen resistant)
   - will change abx to levofloxacin for 7days
   .
   .
   # Syncope/Seizure: Continue Keppra, currently holding dilantin given
   supra-therpeutic levels (in setting of hypoalbuminemia). Contiuing
   continuous EEG monitering
   - f/u EEG results
   - f/u neuro recs
   # Constipation
 no BM for days
 tried enema on floor w/o success
   will try enema again today
   # Anemia: Likely anemia of chronic disease.
   .
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time
   .
   # HTN: Holding all antihypertensives.
   .
   FEN: NPO for now
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]
   .
   DISPOSITION: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-02-29 09:55:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2116-2-28**] 12:37 PM
   continuous
 INDWELLING PORT (PORTACATH) - START [**2116-2-28**] 12:41 PM
 ULTRASOUND - At [**2116-2-28**] 04:19 PM
   poor mental status persists though more interactive this morning
   receiving H2O for hypermatremia
   undergoing continuous EEG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-2-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-2-27**] 04:12 PM
   Piperacillin - [**2116-2-29**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-2-29**] 06:07 AM
   Pantoprazole (Protonix) - [**2116-2-29**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-2-29**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 89 (73 - 94) bpm
   BP: 110/56(82) {98/46(59) - 151/97(117)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,549 mL
                                                                  1,279 mL
   PO:
             TF:
   IVF:
                                                                  1,549 mL
                                                                  1,279 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    965 mL
   Urine:
                                                                  1,395 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                    314 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.38/32/86/18/-4
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: no stridor
   Cardiovascular: (S1: Normal), (S2: Normal, Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, moving all 4 extremities
   Labs / Radiology
   8.2 g/dL
   204 K/uL
   89 mg/dL
   2.9 mg/dL
   18 mEq/L
   4.3 mEq/L
   14 mg/dL
   120 mEq/L
   150 mEq/L
   24.2 %
   14.9 K/uL
        [image002.jpg]
                             [**2116-2-27**]  04:44 AM
                             [**2116-2-28**]  10:53 AM
                             [**2116-2-28**]  11:09 AM
                             [**2116-2-28**]  08:53 PM
                             [**2116-2-29**]  07:26 AM
   WBC
   14.4
   12.4
   15.1
   14.9
   Hct
   26.1
   22.9
   24.4
   24.2
   Plt
   122
   150
   190
   204
   Cr
   2.3
   2.7
   2.9
   2.9
   TCO2
   20
   Glucose
   97
   162
   100
   89
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Differential-Neuts:75.0 %,
   Band:7.0 %, Lymph:14.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.5 g/dL, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   lymphoma - recently treated
   altered mental status - improved this AM, holding kepra and dilantin,
   EEG ongoing, correcting hypernatremia, imaging unchanged
   renal insufficiency/progressing towards failure  - creatinine
   worsening, continue supportive care, ultrasound reassuring, renal
   interested in treating DI - will try ddAVP
   hypernatremia - continue H2O, try ddAVP as above
   cystitis - on zosyn  - complete 7 days of abx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  35
   Patient is critically ill

2116-03-01 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   24 Hour Events:
   - Renal wanted to give DDAVP, check serum and urine osms and lytes.
   Pt's U/O decreased as expected with DDAVP
   - MS [**First Name (Titles) **] [**Last Name (Titles) 5289**] and [**Doctor Last Name 226**]
   - WBC rising, hct falling
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-2-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-2-27**] 04:12 PM
   Piperacillin - [**2116-2-29**] 02:00 AM
   Ciprofloxacin - [**2116-2-29**] 12:00 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-2-29**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2116-3-1**] 05:34 AM
   Other medications:
   Flowsheet Data as of  [**2116-3-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 89 (86 - 98) bpm
   BP: 120/68(79) {95/45(55) - 150/81(91)} mmHg
   RR: 25 (19 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,762 mL
                                                                    665 mL
   PO:
             TF:
   IVF:
                                                                  2,762 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    245 mL
   Urine:
                                                                  2,050 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    712 mL
                                                                    420 mL
   Physical Examination
   GENERAL: Obtunded African American female, not responsive to voice.
   During CT scan revealed spontaneous movement of head and extremities,
   now only responding to deep sternal rub.
   SKIN: warm and well perfused, no rashes
   HEENT: AT/NC, EOMI, PERRLA, gaze slightly diconjugate with left eye
   outwardly deviated. anicteric sclera, pink conjunctiva, patent nares,
   MMM, supple neck, no LAD, no JVD
   CARDIAC: RRR, S1/S2, no mrg
   LUNG: Rhonchi and upper airway congestion
   ABDOMEN: Distended, hyperechoic, no grimmacing on palpation.
   PULSES: 2+ DP pulses bilaterally
   NEURO: Negative Dolls eye reflex, not withdrawing to pain on upper or
   lower extremities.
   Labs / Radiology
   238 K/uL
   7.6 g/dL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   15 mg/dL
   119 mEq/L
   146 mEq/L
   22.0 %
   15.9 K/uL
        [image002.jpg]
                             [**2116-2-27**]  04:44 AM
                             [**2116-2-28**]  10:53 AM
                             [**2116-2-28**]  11:09 AM
                             [**2116-2-28**]  08:53 PM
                             [**2116-2-29**]  07:26 AM
                             [**2116-2-29**]  07:56 PM
                             [**2116-3-1**]  04:44 AM
   WBC
   14.4
   12.4
   15.1
   14.9
   15.6
   15.9
   Hct
   26.1
   22.9
   24.4
   24.2
   23.8
   22.0
   Plt
   122
   150
   190
   [**Telephone/Fax (3) 5290**]
   Cr
   2.3
   2.7
   2.9
   2.9
   2.9
   3.0
   TCO2
   20
   Glucose
   97
   162
   100
   89
   68
   99
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Differential-Neuts:75.0 %,
   Band:7.0 %, Lymph:14.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.4 g/dL, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   .
   #. UNRESPONSIVENESS: Given known CNS lymphoma, concerning for
   hemorrhagic event or critical mass effect. These however appear
   unlikely given overall regression on prior imaging and lack of systemic
   anticoagulation. Seizure also likely cause, although no movemet of
   limbs or eyes has been noted. Patient continues on Keppra and is
   therapeutic on Dilantin. Most likely multifactorial with strong
   contribution from low dose IV Ativan and IV Morphine given for
   tachypnea. Would also consider Keppra as contributor as patient was
   receiving 750mg Q12H in spite of worsening renal function and GFR.
   Otherwise pt has been hypernatremic to 150, not responsive of 2L of
   free water. Pt may have Central DI.
   - Keppra decreased dose to 500mg
   - D/c
d Vanco given high random level of 44
   - Yesterday (Dilantin correction = measured level / [ (0.2 x albumin) +
   0.1],  =25.5, will recheck today
   # Hypernatremia
 currently 150, Pt received D5W @ 150ml/h about 2L
   worth, w/o any change in Na level, continue to be 150. Pt may be
   starting to have Central DI.
   - renal wants to try DDVAP to check for DI
   - continue fluids at current rate D5W @ 150ml/h
   .
   # CKD: Baseline appears to be 1-1.3 and Cr currently 2.5. FeNa 4%
   likely ATN.- pt transiently hypotensive 36hrs ago, timing of renal
   injury preceeded this event. Urine sediment without EOS.No recent
   contrast dye load. Amyloidosis also possible w/ elevated
   b2-microglobulin, hyperglossia, ARF.
   - Renal US negative
   - F/u renal recs
   - Renally dose medications (Keppra, Abx)
   # UTI/Cystitis: No further positive blood cultures, last specimen coag
   negative staph (pen resistant)
   - will change abx to levofloxacin for 7days
   .
   .
   # Syncope/Seizure: Continue Keppra, currently holding dilantin given
   supra-therpeutic levels (in setting of hypoalbuminemia). Contiuing
   continuous EEG monitering
   - f/u EEG results
   - f/u neuro recs
   # Constipation
 no BM for days
 tried enema on floor w/o success
   will try enema again today
   # Anemia: Likely anemia of chronic disease.
   .
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time
   .
   # HTN: Holding all antihypertensives.
   .
   FEN: NPO for now
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]
   .
   DISPOSITION: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-03-01 10:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   received ddAVP, urine output slowed and sodium improved
   mental status remains poor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-2-27**] 04:12 PM
   Piperacillin - [**2116-2-29**] 02:00 AM
   Ciprofloxacin - [**2116-2-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-3-1**] 05:34 AM
   Pantoprazole (Protonix) - [**2116-3-1**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-1**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.3
   HR: 95 (86 - 98) bpm
   BP: 90/36(44) {90/36(44) - 150/81(91)} mmHg
   RR: 27 (19 - 33) insp/min
   SpO2: 94% RA
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,762 mL
                                                                    839 mL
   PO:
             TF:
   IVF:
                                                                  2,762 mL
                                                                    839 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    342 mL
   Urine:
                                                                  2,050 mL
                                                                    342 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    712 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.45/28/71/19/-2
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, answering some simple questions
   Labs / Radiology
   7.6 g/dL
   238 K/uL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   15 mg/dL
   119 mEq/L
   146 mEq/L
   22.0 %
   15.9 K/uL
        [image002.jpg]
                             [**2116-2-27**]  04:44 AM
                             [**2116-2-28**]  10:53 AM
                             [**2116-2-28**]  11:09 AM
                             [**2116-2-28**]  08:53 PM
                             [**2116-2-29**]  07:26 AM
                             [**2116-2-29**]  07:56 PM
                             [**2116-3-1**]  04:44 AM
                             [**2116-3-1**]  08:18 AM
   WBC
   14.4
   12.4
   15.1
   14.9
   15.6
   15.9
   Hct
   26.1
   22.9
   24.4
   24.2
   23.8
   22.0
   Plt
   122
   150
   190
   [**Telephone/Fax (3) 5290**]
   Cr
   2.3
   2.7
   2.9
   2.9
   2.9
   3.0
   TCO2
   20
   20
   Glucose
   97
   162
   100
   89
   68
   99
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Differential-Neuts:75.0 %,
   Band:7.0 %, Lymph:14.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.3
   mmol/L, Albumin:2.4 g/dL, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   lymphoma - recently treated
   altered mental status - stable though no improvement, holding dilantin,
   on kepra, EEG ongoing, correcting hypernatremia, imaging unchanged,
   consider MRI
   renal insufficiency/progressing towards failure  - creatinine worsening
   - unclear cause, urine output and sodium improved with ddAVP,
   ultrasound reassuring, will discuss with renal
   hypernatremia - continue H2O, discuss ddAVP with renal
   cystitis - on zosyn  - completed 7 days of abx, follow
   family meeting to discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2116-03-02 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Central DI confirmed with response in Na, Osm and UOP to DDAVP. Cont
   DDAVP but as NPO and ? thirst mechanism, need to give free water.
   - Etiology thought to be malignancy invading hypothalamus.
   - Tachypnea worsened with expiratory wheezing and grunting, thought to
   be due to pulm edema and positional. Given lasix and stopped free
   water. Na recheck was 147.
   - Plan for 5pm family meeting regarding code status and prognosis.
   - If hypotensive want to give RBCs given anemia, but continues to be
   fluid overloaded.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2116-2-29**] 02:00 AM
   Ciprofloxacin - [**2116-2-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-1**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2116-3-1**] 01:57 PM
   Furosemide (Lasix) - [**2116-3-1**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-2**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.2
C (95.4
   HR: 76 (76 - 94) bpm
   BP: 103/61(69) {80/24(36) - 141/87(90)} mmHg
   RR: 32 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,240 mL
                                                                     77 mL
   PO:
             TF:
   IVF:
                                                                  1,240 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    300 mL
   Urine:
                                                                  1,080 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.35/36/80.[**Numeric Identifier 20**]/17/-4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   7.8 g/dL
   65 mg/dL
   2.9 mg/dL
   17 mEq/L
   4.2 mEq/L
   20 mg/dL
   115 mEq/L
   145 mEq/L
   22.9 %
   17.0 K/uL
        [image002.jpg]
                             [**2116-2-28**]  10:53 AM
                             [**2116-2-28**]  11:09 AM
                             [**2116-2-28**]  08:53 PM
                             [**2116-2-29**]  07:26 AM
                             [**2116-2-29**]  07:56 PM
                             [**2116-3-1**]  04:44 AM
                             [**2116-3-1**]  08:18 AM
                             [**2116-3-1**]  01:07 PM
                             [**2116-3-1**]  11:46 PM
                             [**2116-3-2**]  04:17 AM
   WBC
   12.4
   15.1
   14.9
   15.6
   15.9
   17.0
   Hct
   22.9
   24.4
   24.2
   23.8
   22.0
   22.9
   Plt
   150
   190
   204
   [**Telephone/Fax (3) 5300**]
   Cr
   2.7
   2.9
   2.9
   2.9
   3.0
   2.9
   TCO2
   20
   20
   19
   21
   Glucose
   162
   100
   89
   68
   99
   65
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Differential-Neuts:75.0 %,
   Band:7.0 %, Lymph:14.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.3
   mmol/L, Albumin:2.3 g/dL, Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   .
   #. UNRESPONSIVENESS: Unclear etiology, likely multifactorial
   CNS lymphoma, progressing based on new DI, concerning for hemorrhagic
   event or critical mass effect, but not anticoagulated and no new masses
   on imaging.
   IV Ativan and IV Morphine given for tachypnea
   Keppra not adjusted to renal failure
   Hypernatremia to 150 due to new central DI
   Seizure
  less likely given no EEG findings, therapeutic on meds
   - Keppra decreased dose to 500mg per renal failure
   - Dilantin held until corrected level normal, recheck today
   - D/C
d Vanco given high random level of 44, will recheck level today
   - f/u EEG results, consider stopping given several days of no seizures.
   - f/u neuro-onc recs
   #. Leukocytosis: Continues to rise, today 17. Afebrile, cultures neg,
   CXR without infiltrate. However hypotensive and hypothermic.  Line
   changed yesterday, not erythematous. No diarrhea or recent broad
   antibiotics.  Just finished course of abx for UTI and holding
   Vancomycin given supratherapeutic level.
   - will reculture as last cultured several days ago
   - recheck Vanc level but will hold antibiotics unless have presumed
   source.
   - consider repeat LP
   #Tachypnea: Etiology likely central and compensatory to metabolic
   acidosis. Last ABG 7.36/34/120, Bicarb 17 with AG 13 (Alb 2.3).
   - Metabolic acidosis both AG and and non-AG, likely due to renal
   failure and possibly starvation ketoacidosis
   - will check ketones
   - seems to worsen with pulmonary fluid -> will given RBCs with lasix to
   increase oncotic pressure
   # Hypernatremia
 Confirmed Central DI based on response in Na, osms
   and urine output to DDAVP. Na today 145. Presumed to be due to invasion
   of malignancy into hypothalamus
   - Continue 4mg DDAVP daily
   - will also need free water given NPO status and unclear thirst
   mechanism function but for now will  stop fluids given pulm edema and
   worsening tachypnea
   - will check [**Hospital1 **] Na and urine Osm daily
   - After acute renal failure resolves, will be in danger of becoming
   hyponatremic
 will need to follow carefully and adjust free
   water/DDAVP.
   # [**Doctor First Name **]: Baseline appears to be 1-1.3 and Cr continues to rise, today
   2.9, plateuing. FeNa 4% likely ATN due to transient hypotension.
   - Renal US negative, eos neg, no contrast exposure
   - F/u renal recs
   - Renally dose medications
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis
   - will give 2U pRBCs with lasix.
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time
   - discuss prognosis with family and neuroonc attending.
   - consider repeat MRI to eval for change
   .
   # HTN: Holding all antihypertensives.
   .
   FEN: will place NGT and start tube feeds
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   ACCESS: PIV's and portacath
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]

2116-03-03 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   24 Hour Events:
   2pm - hypothermic to 94, rewarmed within 2 hrs with bear hugger; BS 32
   improved with amp D5
   5pm
 hypotensive 82/44, improved with 500ml bolus
   Renal: would like to replace free water deficit (3L) prior to more
   DDAVP, increased D5W to 150ml/hr
   Received 1U pRBCs and lasix, Hct improved from 22.9 to 26.3
   Family meeting did not include oncology  - no changes in code or plan
   Blood cultured, no growth to date
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2116-2-29**] 12:00 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-2**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2116-3-2**] 02:27 PM
   Dextrose 50% - [**2116-3-2**] 04:43 PM
   Flowsheet Data as of  [**2116-3-3**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 81 (72 - 89) bpm
   BP: 110/47(63) {82/44(51) - 119/83(92)} mmHg
   RR: 33 (25 - 40) insp/min
   SpO2: 92% 3L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,112 mL
                                                                    972 mL
   PO:
             TF:
   IVF:
                                                                  1,687 mL
                                                                    972 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,135 mL
                                                                    580 mL
   Urine:
                                                                  1,135 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                    392 mL
   Physical Examination
   GENERAL: Obtunded African American female, not responsive to voice.
   During CT scan revealed spontaneous movement of head and extremities,
   now only responding to deep sternal rub.
   SKIN: warm and well perfused, no rashes
   HEENT: AT/NC, EOMI, PERRLA, gaze slightly diconjugate with left eye
   outwardly deviated. anicteric sclera, pink conjunctiva, patent nares,
   MMM, supple neck, no LAD, no JVD
   CARDIAC: RRR, S1/S2, no mrg
   LUNG: Rhonchi and upper airway congestion
   ABDOMEN: Distended, hyperechoic, no grimmacing on palpation.
   PULSES: 2+ DP pulses bilaterally
   NEURO: Negative Dolls eye reflex, not withdrawing to pain on upper or
   lower extremities.
   Labs / Radiology
   294 K/uL
   8.8 g/dL
   184 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   22 mg/dL
   114 mEq/L
   143 mEq/L
   26.3 %
   17.9 K/uL
        [image002.jpg]
   Cortisol 3.7, Vancomycin 24, Alb 2.3
                             [**2116-2-29**]  07:26 AM
                             [**2116-2-29**]  07:56 PM
                             [**2116-3-1**]  04:44 AM
                             [**2116-3-1**]  08:18 AM
                             [**2116-3-1**]  01:07 PM
                             [**2116-3-1**]  11:46 PM
                             [**2116-3-2**]  04:17 AM
                             [**2116-3-2**]  08:06 AM
                             [**2116-3-2**]  03:05 PM
                             [**2116-3-3**]  04:51 AM
   WBC
   14.9
   15.6
   15.9
   17.0
   17.9
   Hct
   24.2
   23.8
   22.0
   22.9
   26.3
   Plt
   [**Telephone/Fax (3) 5315**]68
   294
   Cr
   2.9
   2.9
   3.0
   2.9
   2.9
   2.9
   TCO2
   20
   19
   21
   20
   Glucose
   89
   68
   99
   65
   32
   184
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Differential-Neuts:75.0 %,
   Band:7.0 %, Lymph:14.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.3 mg/dL
   IMAGING: CXR with increased fluid overload
   Assessment and Plan
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   .
   #. UNRESPONSIVENESS: Unclear etiology, likely multifactorial
   CNS lymphoma, progressing based on new DI, concerning for hemorrhagic
   event or critical mass effect, but not anticoagulated and no new masses
   on imaging.
   IV Ativan and IV Morphine given for tachypnea
   Keppra not adjusted to renal failure
   Hypernatremia to 150 due to new central DI
   Seizure
  less likely given no EEG findings, therapeutic on meds
   - Keppra decreased dose to 500mg per renal failure
   - Dilantin held until corrected level normal, recheck today
   - D/C
d Vanco given high random level of 44, will recheck level today
   - f/u EEG results, consider stopping given several days of no seizures.
   - f/u neuro-onc recs
   #. Leukocytosis: Continues to rise, today 17.9. Afebrile, cultures neg,
   CXR without infiltrate. However hypotensive and hypothermic.  Line
   changed yesterday, not erythematous. No diarrhea or recent broad
   antibiotics.  Just finished course of abx for UTI and holding
   Vancomycin given supratherapeutic level.
   - will reculture as last cultured several days ago
   - Vanc level still 24, hold antibiotics unless have presumed source.
   - consider repeat LP
   #Tachypnea: Etiology likely central and compensatory to metabolic
   acidosis. Anion gap improved from 13 to 7.
   - Metabolic acidosis both AG and and non-AG, likely due to renal
   failure and possibly starvation ketoacidosis although ketones trace
   - CXR with increased fluid including right effusion and O2 sat
   decreasing on stable 3L NC from high 90s to low 90s.
   - seems to worsen with pulmonary fluid, monitor carefully with free
   water repletion but should not affect volume.
   # Hypernatremia
 Confirmed Central DI based on response in Na, osms
   and urine output to DDAVP. Na today 145. Presumed to be due to invasion
   of malignancy into hypothalamus
   - Continue 4mg DDAVP daily with free water repletion given NPO status
   and unclear thirst mechanism
   - will check [**Hospital1 **] Na and urine Osm daily
   - After acute renal failure resolves, will be in danger of becoming
   hyponatremic
 will need to follow carefully and adjust free
   water/DDAVP.
   # [**Doctor First Name **]: Baseline appears to be 1-1.3 and now plateaued at 2.9,
   plateuing. FeNa 4% likely ATN due to transient hypotension.
   - Renal US negative, eos neg, no contrast exposure
   - F/u renal recs
   - Renally dose medications
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis
   - will give 2U pRBCs with lasix.
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time
   - discuss prognosis with family and neuroonc attending.
   - consider repeat MRI to eval for change
   .
   # HTN: Holding all antihypertensives.
   .
   FEN: tube feeds
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   ACCESS: PIV's and portacath
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]

2116-03-03 11:28:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Progressive hypoxia this AM--intubated for hypoxic resp failure.
   --Also hypotensive prior to intubation worsened after, started on
   vasopressors.
   --Received Zosyn this AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2116-2-29**] 12:00 PM
   Infusions:
   Phenylephrine - 1.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-3-2**] 02:27 PM
   Dextrose 50% - [**2116-3-2**] 04:43 PM
   Midazolam (Versed) - [**2116-3-3**] 09:26 AM
   Fentanyl - [**2116-3-3**] 09:29 AM
   Other medications:
   ddAVP, Zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, hypothermia
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Genitourinary: Foley
   Endocrine: Hypoglycemia
   Heme / Lymph: Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2116-3-3**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 72 (71 - 89) bpm
   BP: 126/118(122) {98/54(73) - 126/118(122)} mmHg
   RR: 20 (9 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (10 - 11)mmHg
   Total In:
                                                                  2,112 mL
                                                                  2,191 mL
   PO:
   TF:
   IVF:
                                                                  1,687 mL
                                                                  2,191 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,135 mL
                                                                    710 mL
   Urine:
                                                                  1,135 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                  1,481 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.19/54/60/20/-7
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   294 K/uL
   184 mg/dL
   2.9 mg/dL
   20 mEq/L
   4.2 mEq/L
   22 mg/dL
   114 mEq/L
   143 mEq/L
   26.3 %
   17.9 K/uL
        [image002.jpg]
                             [**2116-2-29**]  07:56 PM
                             [**2116-3-1**]  04:44 AM
                             [**2116-3-1**]  08:18 AM
                             [**2116-3-1**]  01:07 PM
                             [**2116-3-1**]  11:46 PM
                             [**2116-3-2**]  04:17 AM
                             [**2116-3-2**]  08:06 AM
                             [**2116-3-2**]  03:05 PM
                             [**2116-3-3**]  04:51 AM
                             [**2116-3-3**]  08:27 AM
   WBC
   15.6
   15.9
   17.0
   17.9
   Hct
   23.8
   22.0
   22.9
   26.3
   Plt
   [**Telephone/Fax (3) 5318**]94
   Cr
   2.9
   3.0
   2.9
   2.9
   2.9
   TCO2
   20
   19
   21
   20
   22
   Glucose
   68
   99
   65
   32
   184
   Other labs: PT / PTT / INR:17.0/37.5/1.5, Differential-Neuts:75.0 %,
   Band:7.0 %, Lymph:14.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: [**Last Name (un) 567**]=3.7
   Imaging: CXR:  OGT, ETT, RIJ in appropriate place
   Assessment and Plan
   1) Respiratory Failure:
   [**Month (only) 8**] have been due to aspiration event, failure to clear secretions due
   to altered mental status.  Now intubated.
   Check ABG and assess need to adjust ventilation.
   2) Hypotension:
   [**Month (only) 8**] be from sepsis although there is no clear source of infection.
   Her cortisol is inappropriately low and may reflect adrenal
   insufficiency possibly related to her pituitary involvement.
   Endocrine consult and pending their evaluation begin stress dose
   steroids.
   Vanco/Zosyn empirically.  CT torso to evaluate for potential source of
   infection given rising WBC, check differential.
   Fluid challenge to assess best CVP.  Wean neosynephrine.
   3) CANCER (MALIGNANT NEOPLASM), OTHER:
   F/u with Dr. [**Last Name (STitle) **].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Arterial Line - [**2116-3-3**] 10:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2116-03-04 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with resolved hypotension, tachypnea,
   now with profound obtundation and altered mental status.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2116-3-3**] 08:15 AM
 ARTERIAL LINE - START [**2116-3-3**] 10:26 AM
 MULTI LUMEN - START [**2116-3-3**] 11:31 AM
 EKG - At [**2116-3-3**] 10:14 PM
   - Intubated for airway protection, started on pressors for hypotension,
   initially on phenylephrine, then levophed.
   - Bradycardic in 50's on levophed, EKG no e/o block
   - Stress dose steroids started per endocrine recs that pt is adrenally
   insufficient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-3**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-4**] 01:09 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2116-3-3**] 05:30 PM
   Fentanyl - [**2116-3-3**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-4**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35
C (95
   HR: 60 (56 - 85) bpm
   BP: 129/86(106) {88/54(71) - 156/118(289)} mmHg
   RR: 17 (9 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 12 (6 - 17)mmHg
   Total In:
                                                                  3,959 mL
                                                                    296 mL
   PO:
   TF:
                                                                     95 mL
   IVF:
                                                                  3,959 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    894 mL
                                                                     95 mL
   Urine:
                                                                    894 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,065 mL
                                                                    201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 543 (543 - 543) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   RSBI Deferred: Neuromusc Block, Vent Dependant
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/34/127/18/-2
   Ve: 11.3 L/min
   PaO2 / FiO2: 318
   Physical Examination
   GENERAL: Obtunded African American female, not responsive to voice.
   During CT scan revealed spontaneous movement of head and extremities,
   now only responding to deep sternal rub.
   SKIN: warm and well perfused, no rashes
   HEENT: AT/NC, EOMI, PERRLA, gaze slightly diconjugate with left eye
   outwardly deviated. anicteric sclera, pink conjunctiva, patent nares,
   MMM, supple neck, no LAD, no JVD
   CARDIAC: RRR, S1/S2, no mrg
   LUNG: Rhonchi and upper airway congestion
   ABDOMEN: Distended, hyperechoic, no grimmacing on palpation.
   PULSES: 2+ DP pulses bilaterally
   NEURO: Negative Dolls eye reflex, not withdrawing to pain on upper or
   lower extremities.
   Labs / Radiology
   307 K/uL
   8.7 g/dL
   400 mg/dL
   2.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   22 mg/dL
   101 mEq/L
   130 mEq/L
   25.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2116-3-2**]  04:17 AM
                             [**2116-3-2**]  08:06 AM
                             [**2116-3-2**]  03:05 PM
                             [**2116-3-3**]  04:51 AM
                             [**2116-3-3**]  08:27 AM
                             [**2116-3-3**]  12:13 PM
                             [**2116-3-3**]  08:52 PM
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
   WBC
   17.0
   17.9
   18.5
   Hct
   22.9
   26.3
   25.3
   Plt
   [**Telephone/Fax (3) 5334**]
   Cr
   2.9
   2.9
   2.9
   3.1
   2.9
   TCO2
   20
   22
   19
   22
   22
   Glucose
   65
   32
   184
   203
   400
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:30/82, Alk Phos / T
   Bili:257/0.6, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL,
   LDH:1141 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan 76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with resolved hypotension, tachypnea,
   now with profound obtundation and altered mental status.
   .
   #. Hypotension/ Leukocytosis : WBC continue to rise, today 17.9,
   hypothermic. Line recently, not erythematous. No diarrhea or recent
   broad antibiotics.  Recently finished course of Cipro for UTI. Pt
s CT
   shows infiltrate,  and infection may have been source.  Also pt has
   adrenal insuffiency and hydorcortisone started. Pt may have central
   source causing hypotension [**1-13**] CNS lymphoma.
   - Vanc and zosyn, day # 2
   - continue hydrocortisone 50
   - MAP>65, currently on levophed
   #Respiratory distress: Tachypnea likely central, compensatory to
   metabolic acidosis, and fluid overload for DI and hypotension.
   Metabolic acidosis both AG and and non-AG, likely due to renal failure
   and possibly starvation ketoacidosis although ketones trace.
   - continue  pressor support
 will try to wean as tolerated
   - check ABG and adjust setting accordingly
   #. UNRESPONSIVENESS: Now sedated. Initially unclear etiology, likely
   multifactorial.
   CNS lymphoma, progressing based on new DI, concerning for hemorrhagic
   event or critical mass effect, but not anticoagulated and no new masses
   on imaging. IV Ativan and IV Morphine given for tachypnea. Keppra not
   adjusted to renal failure. Hypernatremia to 150 due to new central DI .
   Seizure
  less likely given no EEG findings, therapeutic on meds
   - Keppra decreased dose to 500mg per renal failure
   - Will restart dilatin
   - Vancomycin per levels
   - f/u EEG results, now stopped
   - f/u neuro-onc recs
   #  Bradycardia
 pt has bradycardia while on b-agonist. Unclear cause,
   may also be [**1-13**] central causes.
 avoid BB currently
   # Hypernatremia
 Confirmed Central DI based on response in Na, osms
   and urine output to DDAVP. Presumed to be due to invasion of malignancy
   into hypothalamus
   - Continue 4mg DDAVP daily with free water repletion given NPO status
   and unclear thirst mechanism
   - will check [**Hospital1 **] Na and urine Osm daily
   - After acute renal failure resolves, will be in danger of becoming
   hyponatremic
 will need to follow carefully and adjust free
   water/DDAVP.
   # [**Doctor First Name **]: Baseline appears to be 1-1.3 and now 3.2 from 2.9 FeNa
   previously 4% likely ATN due to transient hypotension, and may have had
   worsening w/ new hypotensive episode
   - Renally dose medications
   - continue to moniter
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time
   - discuss prognosis with family and neuroonc attending.
   - consider repeat MRI to eval for change
   .
   # HTN: Holding all antihypertensives.
   .
   FEN: tube feeds
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   ACCESS: PIV's and portacath
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2116-3-4**] 01:23 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Arterial Line - [**2116-3-3**] 10:26 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   IV access: Indwelling port (Portacath), heparin dependent Location:
   Left Subclavian Order date: [**2-28**] @ 1058
   13. LeVETiracetam 500 mg IV Q12H  Order date: [**2-28**] @ 1300
   2. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**3-3**] @ 0936
   14. Midazolam 0.5-2 mg/hr IV DRIP INFUSION
   Already received. Please do not give while pt on propofol.  Order date:
   [**3-3**] @ 2334
   3. 1000 mL D5W
   Continuous at 150 ml/hr Order date: [**3-2**] @ 1735
   15. Norepinephrine 0.03-0.25 mcg/kg/min IV DRIP TITRATE TO MAP > 55
   Order date: [**3-3**] @ 2036
   4. Alteplase (Catheter Clearance) 1 mg IV ONCE MR1 Duration: 1 Doses
   Order date: [**3-3**] @ 0832
   16. Ondansetron 8 mg IV Q8H:PRN nausea  Order date: [**2-28**] @ 1058
   5. Albuterol Inhaler 4 PUFF IH Q6H  Order date: [**3-3**] @ 2036
   17. Pantoprazole 40 mg IV Q24H  Order date: [**2-28**] @ 1058
   6. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**3-3**] @
   1654
   18. Piperacillin-Tazobactam Na 4.5 gm IV ONCE Duration: 1 Doses Order
   date: [**3-3**] @ 0817
   7. Desmopressin Acetate 4 mcg IV DAILY  Order date: [**3-1**] @ 1146
   19. Piperacillin-Tazobactam Na 2.25 g IV Q8H
   Day 1 = [**3-3**]  Order date: [**3-3**] @ 0817
   8. Heparin 5000 UNIT SC TID  Order date: [**2-28**] @ 1058
   20. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**2-18**] @
   0921
   9. Heparin Flush (10 units/ml) 5 mL IV PRN line flush
   Indwelling Port (e.g. Portacath), heparin dependent: Flush with 10 mL
   Normal Saline followed by Heparin as above daily and PRN per lumen.
   Order date: [**2-28**] @ 1058
   21. Propofol 5-20 mcg/kg/min IV DRIP INFUSION  Order date: [**3-3**] @ 2314
   10. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port
   Indwelling Port (e.g. Portacath), heparin dependent: When de-accessing
   port, instill Heparin as above per lumen.  Order date: [**2-28**] @ 1058
   22. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-3**] @ 0936
   11. Hydrocortisone Na Succ. 50 mg IV Q6H  Order date: [**3-3**] @ 1311
   23. Vancomycin 1000 mg IV ONCE Duration: 1 Doses Order date: [**3-3**] @
   0817
   12. Ipratropium Bromide MDI 4 PUFF IH QID  Order date: [**3-3**] @ 2036
   24. Vancomycin 1000 mg IV Q48H
   Day 1 = [**3-3**]  Order date: [**3-3**] @ 0817

2116-03-04 11:54:00 Physician Attending Progress Note
Chief Complaint: Respiraotry failure
   Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 y.o. woman with diffuse B cell lymphoma with CNS involvement
   24 Hour Events:
 INVASIVE VENTILATION - START [**2116-3-3**] 08:15 AM
 ARTERIAL LINE - START [**2116-3-3**] 10:26 AM
 MULTI LUMEN - START [**2116-3-3**] 11:31 AM
 EKG - At [**2116-3-3**] 10:14 PM
   Endocrine evaluation given DI, hypocortisolemia
   MRI head:  Motion artifact, on preliminary read unchanged per
   neurooncologist
   CT chest/abdomen:  Moderate dependent conlidation in lungs, bilateral
   pleural effusions, small HH, renal cyst, fatty infiltation of the liver
   Diarrhea
   Tube feeds started yesterday
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-3**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-4**] 01:09 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2116-3-3**] 05:30 PM
   Fentanyl - [**2116-3-3**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-3-4**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35
C (95
   HR: 60 (56 - 72) bpm
   BP: 110/44(61) {98/44(61) - 125/51(62)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 12 (6 - 17)mmHg
   Total In:
                                                                  3,959 mL
                                                                    429 mL
   PO:
   TF:
                                                                    170 mL
   IVF:
                                                                  3,959 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                    894 mL
                                                                    165 mL
   Urine:
                                                                    894 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,065 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 543 (543 - 543) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   RSBI Deferred: Neuromusc Block, Vent Dependant
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/34/127/23/-2
   Ve: 11.3 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   307 K/uL
   181 mg/dL
   3.2 mg/dL
   23 mEq/L
   3.4 mEq/L
   23 mg/dL
   109 mEq/L
   141 mEq/L
   25.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2116-3-2**]  08:06 AM
                             [**2116-3-2**]  03:05 PM
                             [**2116-3-3**]  04:51 AM
                             [**2116-3-3**]  08:27 AM
                             [**2116-3-3**]  12:13 PM
                             [**2116-3-3**]  08:52 PM
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
   WBC
   17.9
   18.5
   Hct
   26.3
   25.3
   Plt
   294
   307
   Cr
   2.9
   2.9
   3.1
   2.9
   3.2
   TCO2
   20
   22
   19
   22
   22
   Glucose
   32
   184
   203
   400
   181
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:30/82, Alk Phos / T
   Bili:257/0.6, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL,
   LDH:1141 IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: C. diff negative
   Microbiology: No growth to date
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER:  On preliminary read the head
   MRI, unchanged from prior exam.
 RESPIRATORY FAILURE IN SETTING OF WORSENING MENTAL STATUS:
   Secretions via ETT purulent withou organisms.  She is certainly at risk
   for aspiration.  On vanco/zosyn.
 BRADYCARDIA: Not on nodal blockade. TSH 1.0.  Hypothermic.  Unclear
   etiology.  Monitor in ICU.
 ENDOCRINE:  On hydrocortisone.
 SEIZURE: Dilantin level continues to decline.  Will discuss
   restarting dilantin with neurooncology.  Keppra level pending.
 CENTRAL DI:  On ddAVP and free water replacement.
 DIARRHEA:  Likely secondary to starting tube feeds as this is
   temporally associated.  Will check C. Diff given elevated WBC.
 ACUTE ON CHRONIC RENAL FAILURE:  Cr [**Last Name (LF) 5344**], [**First Name3 (LF) **] be related to
   hypoentsive event yesterday.  Dosing medicines accordingly, renal
   service following along.
   Will need to establish a time for daily family meetings with HCP and
   whoever they indicate needs to be present.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2116-3-4**] 01:23 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2116-03-05 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2116-3-4**] 09:08 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-3**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-5**] 12:13 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-5**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 67 (57 - 83) bpm
   BP: 129/68(83) {73/44(53) - 138/84(89)} mmHg
   RR: 22 (8 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 342 (12 - 342)mmHg
   Total In:
                                                                  1,923 mL
                                                                    690 mL
   PO:
   TF:
                                                                    664 mL
                                                                    306 mL
   IVF:
                                                                  1,259 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    220 mL
   Urine:
                                                                    260 mL
                                                                     20 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,663 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 516 (418 - 516) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/32/155/18/-2
   Ve: 9.3 L/min
   PaO2 / FiO2: 388
   Physical Examination
   GENERAL: Obtunded African American female, not responsive to voice.
   During CT scan revealed spontaneous movement of head and extremities,
   now only responding to deep sternal rub.
   SKIN: warm and well perfused, no rashes
   HEENT: AT/NC, EOMI, PERRLA, gaze slightly diconjugate with left eye
   outwardly deviated. anicteric sclera, pink conjunctiva, patent nares,
   MMM, supple neck, no LAD, no JVD
   CARDIAC: RRR, S1/S2, no mrg
   LUNG: Rhonchi and upper airway congestion
   ABDOMEN: Distended, hyperechoic, no grimmacing on palpation.
   PULSES: 2+ DP pulses bilaterally
   NEURO: Negative Dolls eye reflex, not withdrawing to pain on upper or
   lower extremities.
   Labs / Radiology
   300 K/uL
   8.5 g/dL
   235 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.2 mEq/L
   29 mg/dL
   108 mEq/L
   140 mEq/L
   23.9 %
   18.7 K/uL
        [image002.jpg]
                             [**2116-3-3**]  12:13 PM
                             [**2116-3-3**]  08:52 PM
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
   WBC
   18.5
   20.5
   18.7
   Hct
   25.3
   24.6
   23.9
   Plt
   [**Telephone/Fax (3) 5357**]
   Cr
   3.1
   2.9
   3.2
   3.1
   3.2
   TCO2
   19
   22
   22
   20
   21
   Glucose
   [**Telephone/Fax (3) 5358**]64
   235
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:30/82, Alk Phos / T
   Bili:257/0.6, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:1141 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: CT Abdomen
   1. Moderate dependent bibasilar consolidations in the lungs which are
   new and
   consistent with pneumonia, possibly related to aspiration. New small
   bilateral pleural effusions.
   2. No evidence of abscess or focal fluid collection within the abdomen
   or
   pelvis.
   3. Small axial hiatal hernia.
   4. Renal cysts not fully characterized on non- contrast enhanced study.
   5. 4 mm left pulmonary nodule. Attention on follow up imaging
   recommended.
   6. Fatty infiltration of the liver.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), OTHER
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   #. Hypotension/ Leukocytosis : WBC continue to rise, today 17.9,
   hypothermic. Line recently, not erythematous. No diarrhea or recent
   broad antibiotics.  Recently finished course of Cipro for UTI. Pt
s CT
   shows infiltrate,  and infection may have been source.  Also pt has
   adrenal insuffiency and hydorcortisone started. Pt may have central
   source causing hypotension [**1-13**] CNS lymphoma.
   - Vanc and zosyn, day # 2
   - continue hydrocortisone 50
   - MAP>65, currently on levophed
   #Respiratory distress: Tachypnea likely central, compensatory to
   metabolic acidosis, and fluid overload for DI and hypotension.
   Metabolic acidosis both AG and and non-AG, likely due to renal failure
   and possibly starvation ketoacidosis although ketones trace.
   - continue  pressor support
 will try to wean as tolerated
   - check ABG and adjust setting accordingly
   #. UNRESPONSIVENESS: Now sedated. Initially unclear etiology, likely
   multifactorial.
   CNS lymphoma, progressing based on new DI, concerning for hemorrhagic
   event or critical mass effect, but not anticoagulated and no new masses
   on imaging. IV Ativan and IV Morphine given for tachypnea. Keppra not
   adjusted to renal failure. Hypernatremia to 150 due to new central DI .
   Seizure
  less likely given no EEG findings, therapeutic on meds
   - Keppra decreased dose to 500mg per renal failure
   - Will restart dilatin
   - Vancomycin per levels
   - f/u EEG results, now stopped
   - f/u neuro-onc recs
   #  Bradycardia
 pt has bradycardia while on b-agonist. Unclear cause,
   may also be [**1-13**] central causes.
 avoid BB currently
   # Hypernatremia
 Confirmed Central DI based on response in Na, osms
   and urine output to DDAVP. Presumed to be due to invasion of malignancy
   into hypothalamus
   - Continue 4mg DDAVP daily with free water repletion given NPO status
   and unclear thirst mechanism
   - will check [**Hospital1 **] Na and urine Osm daily
   - After acute renal failure resolves, will be in danger of becoming
   hyponatremic
 will need to follow carefully and adjust free
   water/DDAVP.
   # [**Doctor First Name **]: Baseline appears to be 1-1.3 and now 3.2 from 2.9 FeNa
   previously 4% likely ATN due to transient hypotension, and may have had
   worsening w/ new hypotensive episode
   - Renally dose medications
   - continue to moniter
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time
   - discuss prognosis with family and neuroonc attending.
   - consider repeat MRI to eval for change
   # HTN: Holding all antihypertensives.
   FEN: tube feeds
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   ACCESS: PIV's and portacath
   CODE STATUS: Full
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2116-3-5**] 02:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-03-05 12:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diffuse B cell CNS lymphoma
   24 Hour Events:
 ARTERIAL LINE - STOP [**2116-3-4**] 09:08 AM
   Off levophed since early this morning
   Restarted on dilantin 100 mg IV BID, keppra left as is
   Diarrhea persists
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-5**] 08:30 AM
   Vancomycin - [**2116-3-5**] 09:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-3-5**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 68 (57 - 83) bpm
   BP: 89/50(59) {73/44(53) - 138/79(89)} mmHg
   RR: 20 (8 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 313 (303 - 342)mmHg
   Total In:
                                                                  1,923 mL
                                                                  1,476 mL
   PO:
   TF:
                                                                    664 mL
                                                                    475 mL
   IVF:
                                                                  1,259 mL
                                                                    937 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    381 mL
   Urine:
                                                                    260 mL
                                                                    181 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,663 mL
                                                                  1,095 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (418 - 516) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/32/155/18/-2
   Ve: 11.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   300 K/uL
   235 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.2 mEq/L
   29 mg/dL
   108 mEq/L
   140 mEq/L
   23.9 %
   18.7 K/uL
        [image002.jpg]
                             [**2116-3-3**]  12:13 PM
                             [**2116-3-3**]  08:52 PM
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
   WBC
   18.5
   20.5
   18.7
   Hct
   25.3
   24.6
   23.9
   Plt
   [**Telephone/Fax (3) 5357**]
   Cr
   3.1
   2.9
   3.2
   3.1
   3.2
   TCO2
   19
   22
   22
   20
   21
   Glucose
   [**Telephone/Fax (3) 5358**]64
   235
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:30/82, Alk Phos / T
   Bili:257/0.6, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:1141 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION:   On stress dose steroids, weaned off pressors.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) in setting of
   hypotension and central CI.  Cr relatively stable.
 CANCER (MALIGNANT NEOPLASM), OTHER, diffuse B cell CNS lymphoma.  Not
   a candidate for brain XRT at this point as per neurooncology.  Family
   updated on a daily basis.  Yesterday her son, HCP asking when to
   reassess goals of care given lack of improvement with decreased
   dilantin and no other clear etiology of altered mental status.
   Follow-up on final MRI read.  Will meet with the family this afternoon
   with neurooncology to readdress goals of care.
 OBTUNDATION/MENTAL STATUS CHANGES:  Dilantin level now in therapeutic
   range, restarted on dilantin.  Will continue to follow levels closely.
   Continued on kepprs 500 q day.
 RESPIRATORY FAILURE with probable aspiration in setting of altered
   mental status, inability to protect her airway.  Try to reduce
   sedation, place on PSV if tolerated.
 ANEMIA:  Transfuse pRBCs for Hct <24.
 DIARRHEA:  [**Month (only) 8**] be secondary to tube feeds, added banana flakes as per
   nutrition. Send C. Diff.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2116-3-5**] 08:17 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2116-03-06 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with resolved hypotension, tachypnea,
   now with profound obtundation and altered mental status.
   24 Hour Events:
   - corrected dilantin level 15.9
   - Pt's MRI limited, but incr in size of hypothalamic and R frontal
   periventricular lesions.
   - Family meeting pt changed to DNR, family will watch to see how pt
   does over weekend, if no improvement may change goals of care to
   comfort.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-5**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-6**] 12:46 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2116-3-6**] 05:30 AM
   Fentanyl - [**2116-3-6**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 73 (67 - 78) bpm
   BP: 126/76(82) {89/50(56) - 149/99(102)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 21 (7 - 313)mmHg
   Total In:
                                                                  2,604 mL
                                                                    472 mL
   PO:
                                                                    200 mL
   TF:
                                                                    908 mL
                                                                    269 mL
   IVF:
                                                                  1,232 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,389 mL
                                                                     60 mL
   Urine:
                                                                    464 mL
                                                                     60 mL
   NG:
   Stool:
                                                                    925 mL
   Drains:
   Balance:
                                                                  1,215 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 632 (477 - 632) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 13.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   9.5 g/dL
   243 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.2 mEq/L
   35 mg/dL
   110 mEq/L
   140 mEq/L
   26.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2116-3-3**]  08:52 PM
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
   WBC
   18.5
   20.5
   18.7
   19.4
   Hct
   25.3
   24.6
   23.9
   26.7
   Plt
   [**Telephone/Fax (3) 5374**]82
   Cr
   3.1
   2.9
   3.2
   3.1
   3.2
   3.2
   TCO2
   22
   22
   20
   21
   Glucose
   [**Telephone/Fax (3) 5358**]64
   235
   243
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:1122 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: MRI Head
   IMPRESSION:
   1. Limited study in the absence of gadolinium and in the presence of
   patient motion. Nevertheless, there appears to be increase in size in
   the previously visualized hypothalamic and right frontal
   periventricular lesions.
   Further imaging with contrast recommended to assess interval change.
   Microbiology: 17 negative blood cultures since admission
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   - Vanc and zosyn, day # 3
   - continue stress dose steroids, now tapering to hydrocort 50 [**Hospital1 **]
   - off levophed x 48h
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Suspected to be secondary to
 ELECTROLYTE & FLUID DISORDER, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CANCER (MALIGNANT NEOPLASM), OTHER
    76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   #. Hypotension/ Leukocytosis : Off levophed this am, WBC improving.
   - Vanc and zosyn, day # 3
   - continue stress dose steroids (hydrocortisone 50 q6)
   - MAP>65, currently on levophed
   #Respiratory distress: Likely [**1-13**] obtundation.
   - Tolerating PSV 10/5 well
   # Altered mental status: Now sedated. Likely related to primary CNS
   lymphoma.
   - Keppra decreased dose to 500mg per renal failure
   - Restarted dilatin, now IV per neuro onc and nutrition recs
   - Vancomycin per levels
   - f/u EEG results, MRI
   - f/u neuro-onc recs
   # Hypernatremia
 Confirmed Central DI based on response in Na, osms
   and urine output to DDAVP. Presumed to be secondary to basal ganglia
   lymphoma.
   - Stopped DDAVP
   - will check [**Hospital1 **] Na and urine Osm daily
   - After acute renal failure resolves, will be in danger of becoming
   hyponatremic
 will need to follow carefully and adjust free
   water/DDAVP.
   # [**Doctor First Name **]: Baseline appears to be 1-1.3 and now 3.2 from 2.9 FeNa
   previously 4% likely ATN due to transient hypotension, and may have had
   worsening w/ new hypotensive episode
   - Renally dose medications
   - continue to moniter
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma in Left Basal Ganglia: Patient is s/p C3D1 Alimta on [**2-13**].
   No plans for inpatient treatement at this time
   - discuss prognosis with family and neuroonc attending.
   - f/u repeat MRI to eval for change
   # HTN: Holding all antihypertensives.
   FEN: tube feeds
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   ACCESS: PIV's and portacath
   CODE STATUS: DNR
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2116-3-6**] 04:53 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:

2116-03-06 12:44:00 Physician Attending Progress Note
Chief Complaint: Altered metnal status, respiratory failure secondary
   to inability to protect her airway
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated
   Family meeting yesterday, patient DNR
   Receiving fentanyl/versed boluses
   Transfused 1 u pRBCs
   Continues off pressors
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-5**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-6**] 08:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-6**] 08:00 AM
   Dilantin - [**2116-3-6**] 08:00 AM
   Midazolam (Versed) - [**2116-3-6**] 08:15 AM
   Fentanyl - [**2116-3-6**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-3-6**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 75 (67 - 78) bpm
   BP: 130/69(83) {104/50(56) - 149/99(102)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
   CVP: 15 (7 - 26)mmHg
   Total In:
                                                                  2,604 mL
                                                                  1,538 mL
   PO:
                                                                    200 mL
   TF:
                                                                    908 mL
                                                                    439 mL
   IVF:
                                                                  1,232 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  1,389 mL
                                                                    400 mL
   Urine:
                                                                    464 mL
                                                                    400 mL
   NG:
   Stool:
                                                                    925 mL
   Drains:
   Balance:
                                                                  1,215 mL
                                                                  1,138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (475 - 632) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, No(t)
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   282 K/uL
   243 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.2 mEq/L
   35 mg/dL
   110 mEq/L
   140 mEq/L
   26.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2116-3-3**]  08:52 PM
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
   WBC
   18.5
   20.5
   18.7
   19.4
   Hct
   25.3
   24.6
   23.9
   26.7
   Plt
   [**Telephone/Fax (3) 5374**]82
   Cr
   3.1
   2.9
   3.2
   3.1
   3.2
   3.2
   TCO2
   22
   22
   20
   21
   Glucose
   [**Telephone/Fax (3) 5358**]64
   235
   243
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:1122 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: dilantin - 29 (uncorrected)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) in setting of altered
   mental status, with aspiration PNA.  On vanco zosyn.
 ADRENAL INSUFFICIENCY:  On stress dose steroids.
 ELECTROLYTE & FLUID DISORDER, OTHER: Replete K.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  No improvement in
   renal function.  Dosing meds accordingly.  Presumed to be secondary to
   ATN.
 CANCER (MALIGNANT NEOPLASM), OTHER:  Patient has not been able to
   receive further therapy for her diffuse B cell lymphoma given fragile
   overall state.   Family aware of poor prognosis.
 SEIZURES:  Dilantin elevated again this morning, dilantin stopped.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-3-6**] 09:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2116-03-07 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with resolved hypotension, tachypnea,
   now with profound obtundation and altered mental status.
   24 Hour Events:
   - dilantin level Uncorrected 29, held dilantin, per Dr [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-5**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-6**] 04:00 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-6**] 08:00 AM
   Dilantin - [**2116-3-6**] 08:00 AM
   Midazolam (Versed) - [**2116-3-6**] 08:15 AM
   Fentanyl - [**2116-3-6**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2116-3-6**] 02:28 PM
   Flowsheet Data as of  [**2116-3-7**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 73 (69 - 78) bpm
   BP: 127/67(82) {100/36(59) - 177/97(111)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
    CVP: 3 (3 - 21)mmHg
   Total In:
                                                                  2,459 mL
                                                                    427 mL
   PO:
   TF:
                                                                    879 mL
                                                                    285 mL
   IVF:
                                                                    740 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    245 mL
   Urine:
                                                                    630 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,429 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 584 (475 - 584) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 8.7 L/min
   Physical Examination
   GEN: intubated, not sedated but minimally responsive.
   HEENT: ETT in place
   CV: RRR, no M
   PULM: CTA B
   ABD: obese, soft, NT, ND, +BS
   EXT: diffusely edematous
   Labs / Radiology
   347 K/uL
   9.4 g/dL
   148 mg/dL
   3.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   38 mg/dL
   113 mEq/L
   139 mEq/L
   27.9 %
   18.3 K/uL
        [image002.jpg]
                             [**2116-3-3**]  08:56 PM
                             [**2116-3-4**]  04:00 AM
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
   WBC
   18.5
   20.5
   18.7
   19.4
   18.3
   Hct
   25.3
   24.6
   23.9
   26.7
   27.9
   Plt
   [**Telephone/Fax (3) 5374**]82
   347
   Cr
   2.9
   3.2
   3.1
   3.2
   3.2
   3.1
   TCO2
   22
   22
   20
   21
   Glucose
   400
   181
   164
   235
   243
   148
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:1122 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Was hypotensive,
   tachycardic, hypothermic and in respiratory failure: likely due to
   aspiration event in setting of unprotected airway and AMS
   - Vanc and zosyn, day # 5 (Vanco level 28.7
 held today)
   - continue stress dose steroids, now tapering to hydrocort 50 [**Hospital1 **],
   likely etiology of persistent leukocytosis.
   - off levophed for several days
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) - Suspected to be secondary
   to obtundation from CNS lymphoma.
   - doing well on pressure support, with rate in teens, improved from
   prior central tachypnea
 ELECTROLYTE & FLUID DISORDER, OTHER - Hypernatremia resolved, likely
   transient DI in the setting of hypothalamic lesion, DDAVP now off,
   sodium continues to be in 140
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Baseline appears to be 1-1.3 and now 3.1. Likely ATN given high FeNa,
   repeated hypotensive episodes.
   - Renally dose medications
   - continue to moniter
   # Altered mental status: Likely related to primary CNS lymphoma.
   Currently able to nod to questions, open eyes on command. Otherwise
   does not follow commands.
   - Keppra decreased dose to 500mg per renal failure
   - Dilantin dosing per albumin corrected levels (9.6 uncorrected, 17.1
   corrected)
 holding today
   - Vancomycin per levels
 high today
   - EEG without seizures
   - MRI with frontal and hypothalamic lesion.
   - f/u neuro-onc recs
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma in Left Basal Ganglia: Patient is s/p C3D1 Alimta on [**2-13**].
   No plans for inpatient treatement at this time
   - discuss prognosis with family and neuroonc attending.
   - MRI with incr in size of hypothalamic and R frontal periventricular
   lesions.
   # HTN: Holding all antihypertensives.
   # Goals of care: although has some positive signs of improvement (DI
   resolved, rest rate decreased, slightly more awake), still has no
   therapy options, including radiation as increased intracranial edema
   would be detrimental. Also, even after treatment of aspiration, will
   not have corrected poor protection of airway and will likely have
   recurrence of aspiration.
   - family plans to consider CMO if no neuro improvement over the
   weekend.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-3-6**] 09:00 AM 40 mL/hour
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT: SQ H
   Stress ulcer: PPI
   Communication: Reese
   Code status: DNR (do not resuscitate)

2116-03-08 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 76 year old female with a history of Diffuse B cell
   lymphoma with CNS involvement, with resolved hypotension, tachypnea,
   now with profound obtundation and altered mental status.
   24 Hour Events:
   - more interactive today, appropriately answering questions with nods.
   Tachypnea and DI have spontaneously resolved!!!
   - family meeting: asked them to start thinking about what to do if
   extubated regarding reintubation. Unsure if they want trach/peg in that
   situation. Options, extubate (monday) and flies vs extubate and fail.
   If fails can become CMO or reintubate and trach. Seem to understand,
   goal to make decision by monday, after watching for more improvement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-5**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-7**] 04:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-7**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2116-3-7**] 10:23 PM
   Midazolam (Versed) - [**2116-3-8**] 12:23 AM
   Fentanyl - [**2116-3-8**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-8**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 80 (72 - 81) bpm
   BP: 141/72(89) {119/64(66) - 149/91(96)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  1,492 mL
                                                                    358 mL
   PO:
   TF:
                                                                    961 mL
                                                                    278 mL
   IVF:
                                                                    531 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,141 mL
                                                                    435 mL
   Urine:
                                                                    921 mL
                                                                    385 mL
   NG:
                                                                     20 mL
   Stool:
                                                                    200 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                    351 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 556 (390 - 580) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 8.7 L/min
   Physical Examination
   GEN: intubated, not sedated but minimally responsive.
   HEENT: ETT in place
   CV: RRR, no M
   PULM: CTA B
   ABD: obese, soft, NT, ND, +BS
   EXT: diffusely edematous
   Labs / Radiology
   315 K/uL
   9.7 g/dL
   91 mg/dL
   3.2 mg/dL
   21 mEq/L
   3.2 mEq/L
   43 mg/dL
   113 mEq/L
   143 mEq/L
   28.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2116-3-4**]  04:21 AM
                             [**2116-3-4**]  09:01 AM
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
                             [**2116-3-7**]  07:59 AM
                             [**2116-3-8**]  04:18 AM
   WBC
   20.5
   18.7
   19.4
   18.3
   16.7
   Hct
   24.6
   23.9
   26.7
   27.9
   28.3
   Plt
   300
   300
   282
   347
   315
   Cr
   3.2
   3.1
   3.2
   3.2
   3.1
   3.2
   TCO2
   22
   20
   21
   20
   Glucose
   181
   164
   235
   243
   148
   91
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.3 g/dL,
   LDH:1122 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   # Altered mental status: multifactorial
 related to CNS lymphoma and
   toxic metabolic.  Current improvement from no longer being
   supratherapeutic on anti-convsulants, and improved electrolytes. MRI
   showed incr size of lesions, but NeuroOnc does not think is the cause
   of her AMS. EEG showed no sz. Overall pt not able to get XRT to brain,
   and therefore prognosis poor. Pt improved yesterday, no longer
   tahcypneic, opening eyes, but may be waxing/[**Doctor Last Name 226**] as not following
   commands.
   - check daily dilantin levels and albuin levels and correct
 held
   yesterday as 17.1
   - f/u NeuroOnc recs
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 Improved now on [**4-14**] of
   pressure support, and optimal time to try extubation.  AMS main
   contributor of keeping pt on vent.
   - prior to extubation must clarify w/ family that will not reintubate
   either trach vs. CMO. Dr. [**First Name (STitle) 803**] now does not think trach should be an
   option.
   - will diurese to help w/ respiratory status
 lasix 10 IV x1
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 now resolved- off levophed
   for several days. Was hypotensive, tachycardic, hypothermic and in
   respiratory failure (alternate explanation [**1-13**] hypothermic /
   hypotensive [**1-13**] brain mets). Previously tx cystitis on this admission,
   this time likely due to aspiration event in setting of unprotected
   airway and AMS
   - Vanc and zosyn, day # 7 (Vanco level 28.7
 held today yesterday
   - check AM vanco trough
   - continue stress dose steroids, now tapering to hydrocortisone
   #  Hypernatremia
 now resolved. Pt had Central DI, now off DDVAP.
   Likely helped mental status.
 continue to moniter
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- FeNA supported not
   prerenal. Due to ischemic ATN, multiple epsiodes of hypotension. Pt
   Cr now stable at 3.[**4-11**] be new baseline
 will moniter
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma in Left Basal Ganglia: Patient is s/p C3D1 Alimta on [**2-13**].
   No plans for inpatient treatement at this time. Discussing prognosis
   with family and neuroonc attending. MRI with incr in size of
   hypothalamic and R frontal periventricular lesions.
   - not able to get XRT brain currently
   # HTN: Holding all antihypertensives.
   # Goals of care: although has some positive signs of improvement (DI
   resolved, rest rate decreased, slightly more awake), still has no
   therapy options, including radiation as increased intracranial edema
   would be detrimental. Also, even after treatment of aspiration, will
   not have corrected poor protection of airway and will likely have
   recurrence of aspiration.
   - family plans to consider CMO if no neuro improvement over the weekend
 now reconsidering since slight improvement
 will emphasize overall
   prognosis still poor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2116-3-6**] 09:00 AM 40 mL/hour
   Lines:
   Indwelling Port (PortaCath) - [**2116-2-28**] 12:41 PM
   18 Gauge - [**2116-3-3**] 08:30 AM
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT: SQ H
   Stress ulcer: PPI
   Communication: Reese
   Code status: DNR (do not resuscitate)

2116-03-09 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental
   status.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - STOP [**2116-3-8**] 12:29 PM
   - held vanco (28.7) and dilatnin (corrected 13.6) as supratherapeutic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-9**] 04:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-8**] 08:08 AM
   Furosemide (Lasix) - [**2116-3-8**] 05:52 PM
   Fentanyl - [**2116-3-8**] 11:19 PM
   Midazolam (Versed) - [**2116-3-8**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-9**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 90 (74 - 92) bpm
   BP: 127/72(85) {125/71(85) - 163/119(123)} mmHg
   RR: 19 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
    CVP: 7 (7 - 14)mmHg
   Total In:
                                                                  1,611 mL
                                                                    391 mL
   PO:
   TF:
                                                                    961 mL
                                                                    217 mL
   IVF:
                                                                    650 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    700 mL
   Urine:
                                                                  3,160 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,799 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 527 (492 - 599) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 8.7 L/min
   Physical Examination
   GEN: intubated, not sedated but minimally responsive.
   HEENT: ETT in place
   CV: RRR, no M
   PULM: CTA B
   ABD: obese, soft, NT, ND, +BS
   EXT: diffusely edematous
   Labs / Radiology
   370 K/uL
   9.7 g/dL
   99 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   49 mg/dL
   115 mEq/L
   143 mEq/L
   30.1 %
   14.6 K/uL
        [image002.jpg]
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
                             [**2116-3-7**]  07:59 AM
                             [**2116-3-8**]  04:18 AM
                             [**2116-3-8**]  10:18 PM
                             [**2116-3-9**]  05:17 AM
   WBC
   20.5
   18.7
   19.4
   18.3
   16.7
   14.6
   Hct
   24.6
   23.9
   26.7
   27.9
   28.3
   30.1
   Plt
   300
   300
   282
   [**Telephone/Fax (3) 5443**]
   Cr
   3.1
   3.2
   3.2
   3.1
   3.2
   3.1
   3.3
   TCO2
   20
   21
   20
   Glucose
   164
   235
   243
   148
   91
   99
   Other labs: PT / PTT / INR:17.0/37.5/1.5, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1122 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   # Altered mental status: multifactorial
 related to CNS lymphoma and
   toxic metabolic.  Current improvement from no longer being
   supratherapeutic on anti-convsulants, and improved electrolytes. MRI
   showed incr size of lesions, but NeuroOnc does not think is the cause
   of her AMS. EEG showed no sz. Overall pt not able to get XRT to brain,
   and therefore prognosis poor. Pt improved yesterday, no longer
   tahcypneic, opening eyes, but may be waxing/[**Doctor Last Name 226**] as not following
   commands.
   - check daily dilantin levels and albuin levels and correct
 held
   yesterday as 17.1
   - f/u NeuroOnc recs
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 Improved now on [**4-14**] of
   pressure support, and optimal time to try extubation.  AMS main
   contributor of keeping pt on vent.
   - prior to extubation must clarify w/ family that will not reintubate
   either trach vs. CMO. Dr. [**First Name (STitle) 803**] now does not think trach should be an
   option.
   - will diurese to help w/ respiratory status
 lasix 10 IV x1
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 now resolved- off levophed
   for several days. Was hypotensive, tachycardic, hypothermic and in
   respiratory failure (alternate explanation [**1-13**] hypothermic /
   hypotensive [**1-13**] brain mets). Previously tx cystitis on this admission,
   this time likely due to aspiration event in setting of unprotected
   airway and AMS
   - Vanc and zosyn, day # 7 (Vanco level 28.7
 held today yesterday
   - check AM vanco trough
   - continue stress dose steroids, now tapering to hydrocortisone
   #  Hypernatremia
 now resolved. Pt had Central DI, now off DDVAP.
   Likely helped mental status.
 continue to moniter
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- FeNA supported not
   prerenal. Due to ischemic ATN, multiple epsiodes of hypotension. Pt
   Cr now stable at 3.[**4-11**] be new baseline
 will moniter
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma in Left Basal Ganglia: Patient is s/p C3D1 Alimta on [**2-13**].
   No plans for inpatient treatement at this time. Discussing prognosis
   with family and neuroonc attending. MRI with incr in size of
   hypothalamic and R frontal periventricular lesions.
   - not able to get XRT brain currently
   # HTN: Holding all antihypertensives.
   # Goals of care: although has some positive signs of improvement (DI
   resolved, rest rate decreased, slightly more awake), still has no
   therapy options, including radiation as increased intracranial edema
   would be detrimental. Also, even after treatment of aspiration, will
   not have corrected poor protection of airway and will likely have
   recurrence of aspiration.
   - family plans to consider CMO if no neuro improvement over the weekend
 now reconsidering since slight improvement
 will emphasize overall
   prognosis still poor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2116-03-09 13:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating IPS mode.
   Remains poorly responsive.
   INDWELLING PORT (PORTACATH) - STOP [**2116-3-8**] 12:29 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, mechanical
   ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-9**] 08:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2116-3-8**] 05:52 PM
   Midazolam (Versed) - [**2116-3-8**] 11:19 PM
   Fentanyl - [**2116-3-8**] 11:19 PM
   Pantoprazole (Protonix) - [**2116-3-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-3-9**] 01:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 88 (74 - 92) bpm
   BP: 120/97(102) {120/70(83) - 163/119(123)} mmHg
   RR: 19 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
   CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  1,610 mL
                                                                    745 mL
   PO:
   TF:
                                                                    960 mL
                                                                    361 mL
   IVF:
                                                                    650 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,490 mL
   Urine:
                                                                  3,160 mL
                                                                  1,490 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,800 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (466 - 599) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid;
   Labs / Radiology
   9.7 g/dL
   370 K/uL
   99 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   49 mg/dL
   115 mEq/L
   143 mEq/L
   30.1 %
   14.6 K/uL
        [image002.jpg]
                             [**2116-3-4**]  02:32 PM
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
                             [**2116-3-7**]  07:59 AM
                             [**2116-3-8**]  04:18 AM
                             [**2116-3-8**]  10:18 PM
                             [**2116-3-9**]  05:17 AM
   WBC
   20.5
   18.7
   19.4
   18.3
   16.7
   14.6
   Hct
   24.6
   23.9
   26.7
   27.9
   28.3
   30.1
   Plt
   300
   300
   282
   [**Telephone/Fax (3) 5443**]
   Cr
   3.1
   3.2
   3.2
   3.1
   3.2
   3.1
   3.3
   TCO2
   20
   21
   20
   Glucose
   164
   235
   243
   148
   91
   99
   Other labs: PT / PTT / INR:12.5/25.1/1.1, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1122 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Altered mental status, CNS lymphoma
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) -- persistent;
   multifacatorial.  Pneumonia, altered mental status.  Concern for
   ability to protect airway if extubated.  Need to establish plans for
   extubation (need to establish whether reintubation is desired or
   whether comfort would be goal).
   ALTERED  MENTAL STATUS -- unclear etiology, but concerns include CNS
   lymphoma, seizures (post-ictal).  Toxic metabolic causes being
   addressed and reversed.  [**Month (only) 8**] be component of pneumonia (aspiration).
   Monitor.
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) -- pneumonia.  Continue current
   therapy.
   SEIZURES -- now on cepra and dilantin.  Follow dilantin levels.
   RENAL FAILURE, ACUTE  -- resolving, but slow.  Monitor
   CANCER (MALIGNANT NEOPLASM), LYMPHOMA -- s/p XRT.  No further treatment
   options.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-3**] 11:31 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Family discussion, including husband [**Name (NI) 225**].  Updated medical
   condition.  Answered all questions.  In view of lack of [**Hospital 5454**]
   medical progress, CNS lymphoma without treatment options at this time,
   family expresses clearly that patient would not want prolonged support
   or mechanical ventilation.  Plan to proceed with extubation, focus on
   comfort care, and no plans for reintubation in the event of clnical
   decline in respiratory status.  Patient is DNR/DNI.  All in agreement.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2116-3-9**] 20:08 ------

2116-03-10 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   24 Hour Events:
   -pt extubated last  night
   -no plan for reintubation
   -got dilantin 100mg last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-10**] 12:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-9**] 08:00 AM
   Furosemide (Lasix) - [**2116-3-9**] 03:10 PM
   Dilantin - [**2116-3-9**] 06:30 PM
   Midazolam (Versed) - [**2116-3-9**] 07:46 PM
   Fentanyl - [**2116-3-9**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2116-3-10**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-10**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 88 (82 - 92) bpm
   BP: 156/98(124) {120/68(83) - 161/98(124)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
             Total In:
                                                                    859 mL
                                                                     50 mL
   PO:
             TF:
                                                                    361 mL
   IVF:
                                                                    498 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    530 mL
   Urine:
                                                                  2,820 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (466 - 733) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///23/
   Ve: 8.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   347 K/uL
   9.3 g/dL
   67 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   51 mg/dL
   118 mEq/L
   151 mEq/L
   28.5 %
   16.1 K/uL
        [image002.jpg]
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
                             [**2116-3-7**]  07:59 AM
                             [**2116-3-8**]  04:18 AM
                             [**2116-3-8**]  10:18 PM
                             [**2116-3-9**]  05:17 AM
                             [**2116-3-10**]  04:26 AM
   WBC
   18.7
   19.4
   18.3
   16.7
   14.6
   16.1
   Hct
   23.9
   26.7
   27.9
   28.3
   30.1
   28.5
   Plt
   300
   282
   347
   [**Telephone/Fax (3) 5459**]
   Cr
   3.2
   3.2
   3.1
   3.2
   3.1
   3.3
   3.5
   TCO2
   20
   21
   20
   Glucose
   235
   243
   148
   91
   99
   67
   Other labs: PT / PTT / INR:12.5/25.1/1.1, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1122 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   # Altered mental status: multifactorial
 related to CNS lymphoma and
   toxic metabolic.  Current improvement from no longer being
   supratherapeutic on anti-convsulants, and improved electrolytes. MRI
   showed incr size of lesions, but NeuroOnc does not think is the cause
   of her AMS. EEG showed no sz. Overall pt not able to get XRT to brain,
   and therefore prognosis poor. Pt stable from yesterday, no longer
   tahcypneic.  Patient is opening eyes, but is not following commands.
   Dilantin level was 5.7 this AM.
   - Dilantin 100mg IV x 1, recheck level in AM
   - f/u NeuroOnc recs
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 Improved now on [**4-14**] of
   pressure support, and optimal time to try extubation.  AMS main
   contributor of keeping pt on vent.  Prior to extubation must clarify w/
   family that will not reintubate
 either trach vs. CMO.
   - Meet with family today
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 now resolved- off levophed
   for several days. Was hypotensive, tachycardic, hypothermic and in
   respiratory failure (alternate explanation [**1-13**] hypothermic /
   hypotensive [**1-13**] brain mets). Previously tx cystitis on this admission,
   this time likely due to aspiration event in setting of unprotected
   airway and AMS
   - Vanc and zosyn, day # 8 (Vanco level 20.8
 held today )
   - check AM vanco trough
   - continue stress dose steroids, cont hydrocortisone
   #  Hypernatremia
 now resolved. Pt had Central DI, now off DDVAP.
   Likely helped mental status.
 continue to moniter
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- FeNA supported not
   prerenal. Due to ischemic ATN, multiple epsiodes of hypotension. Pt
   Cr now stable at 3.[**4-11**] be new baseline
 will moniter
   # Anemia: Likely anemia of chronic disease with poor reticulocytosis.
   Responded appropriately to pRBCs
   # CN Lymphoma in Left Basal Ganglia: Patient is s/p C3D1 Alimta on [**2-13**].
   No plans for inpatient treatement at this time. Discussing prognosis
   with family and neuroonc attending. MRI with incr in size of
   hypothalamic and R frontal periventricular lesions.
   - not able to get XRT brain currently
   # HTN: Holding all antihypertensives.
   # Goals of care: although has some positive signs of improvement (DI
   resolved, rest rate decreased, slightly more awake), still has no
   therapy options, including radiation as increased intracranial edema
   would be detrimental. Also, even after treatment of aspiration, will
   not have corrected poor protection of airway and will likely have
   recurrence of aspiration.
   - family plans to consider CMO if no neuro improvement over the weekend
 now reconsidering since slight improvement
 will emphasize overall
   prognosis still poor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-3-9**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2116-03-10 13:08:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated uneventfully last PM.
   Remains somnulant.
 INDWELLING PORT (PORTACATH) - START [**2116-3-9**] 05:22 PM
   left lateral port of double lumen
 MULTI LUMEN - STOP [**2116-3-9**] 06:25 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-10**] 07:41 AM
   Vancomycin - [**2116-3-10**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2116-3-9**] 03:10 PM
   Dilantin - [**2116-3-9**] 06:30 PM
   Midazolam (Versed) - [**2116-3-9**] 07:46 PM
   Fentanyl - [**2116-3-9**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2116-3-10**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-3-10**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96.1
   HR: 78 (77 - 92) bpm
   BP: 148/83(97) {120/68(84) - 161/98(124)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
             Total In:
                                                                    859 mL
                                                                    300 mL
   PO:
             TF:
                                                                    361 mL
   IVF:
                                                                    498 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                  1,300 mL
   Urine:
                                                                  2,820 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (479 - 733) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   347 K/uL
   67 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   51 mg/dL
   118 mEq/L
   151 mEq/L
   28.5 %
   16.1 K/uL
        [image002.jpg]
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
                             [**2116-3-7**]  07:59 AM
                             [**2116-3-8**]  04:18 AM
                             [**2116-3-8**]  10:18 PM
                             [**2116-3-9**]  05:17 AM
                             [**2116-3-10**]  04:26 AM
   WBC
   18.7
   19.4
   18.3
   16.7
   14.6
   16.1
   Hct
   23.9
   26.7
   27.9
   28.3
   30.1
   28.5
   Plt
   300
   282
   347
   [**Telephone/Fax (3) 5459**]
   Cr
   3.2
   3.2
   3.1
   3.2
   3.1
   3.3
   3.5
   TCO2
   20
   21
   20
   Glucose
   235
   243
   148
   91
   99
   67
   Other labs: PT / PTT / INR:12.5/25.1/1.1, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1122 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Altered mental status, CNS lymphoma
   RESPIRATORY FAILURE, ACUTE  -- s/p extubation (intubated due to
   pneumonia, altered mental status, and seizure).  Appears stable.
   Supplimental Oxygen.
   ALTERED  MENTAL STATUS -- unclear etiology, but concerns include CNS
   lymphoma, seizures (post-ictal).  Toxic metabolic causes being
   addressed and reversed.  [**Month (only) 8**] be component of pneumonia (aspiration).
   Monitor.
   HYPERNATREMIA -- previously attributed to DI.  Now may be reduced PO
   intake.  Replete free H2O.  Monitor Na, aim for <150.
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) -- pneumonia.  Complete current
   therapy.
   SEIZURES -- now on cepra and dilantin.  Follow dilantin levels.
   RENAL FAILURE, ACUTE  -- resolving, but slow.  Monitor.
   CANCER (MALIGNANT NEOPLASM), LYMPHOMA -- s/p XRT.  No further treatment
   options.  Comfort care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-3-9**] 05:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2116-03-10 19:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   76 year old female with a history of Diffuse B cell lymphoma with CNS
   involvement, with resolved hypotension, tachypnea, now with profound
   obtundation and altered mental status.
   24 Hour Events:
   -pt extubated last  night
   -no plan for reintubation
   -got dilantin 100mg IV last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-10**] 12:23 AM
   Vanco
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-3-9**] 08:00 AM
   Furosemide (Lasix) - [**2116-3-9**] 03:10 PM
   Dilantin - [**2116-3-9**] 06:30 PM
   Midazolam (Versed) - [**2116-3-9**] 07:46 PM
   Fentanyl - [**2116-3-9**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2116-3-10**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-10**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 88 (82 - 92) bpm
   BP: 156/98(124) {120/68(83) - 161/98(124)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.7 kg (admission): 88 kg
   Height: 66 Inch
             Total In:
                                                                    859 mL
                                                                     50 mL
   PO:
             TF:
                                                                    361 mL
   IVF:
                                                                    498 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    530 mL
   Urine:
                                                                  2,820 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (466 - 733) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///23/
   Ve: 8.1 L/min
   Physical Examination
   General: opens eyes to voice, not following commands
   HEENT: mmm
   Cardiac: difficult to access given pt snoring, rrr
   Pulm: difficult to access given snoring, no rhonchi appreciated
   Abd: soft NT/ND
   LE: edema bilaterally to ankle, DP pulses +1, radial pulses +1
   Labs / Radiology
   347 K/uL
   9.3 g/dL
   67 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   51 mg/dL
   118 mEq/L
   151 mEq/L
   28.5 %
   16.1 K/uL
        [image002.jpg]
                             [**2116-3-4**]  09:14 PM
                             [**2116-3-5**]  03:42 AM
                             [**2116-3-5**]  05:24 AM
                             [**2116-3-6**]  05:05 AM
                             [**2116-3-7**]  03:31 AM
                             [**2116-3-7**]  07:59 AM
                             [**2116-3-8**]  04:18 AM
                             [**2116-3-8**]  10:18 PM
                             [**2116-3-9**]  05:17 AM
                             [**2116-3-10**]  04:26 AM
   WBC
   18.7
   19.4
   18.3
   16.7
   14.6
   16.1
   Hct
   23.9
   26.7
   27.9
   28.3
   30.1
   28.5
   Plt
   300
   282
   347
   [**Telephone/Fax (3) 5459**]
   Cr
   3.2
   3.2
   3.1
   3.2
   3.1
   3.3
   3.5
   TCO2
   20
   21
   20
   Glucose
   235
   243
   148
   91
   99
   67
   Other labs: PT / PTT / INR:12.5/25.1/1.1, ALT / AST:31/93, Alk Phos / T
   Bili:284/0.4, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.5 %,
   Mono:4.7 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1122 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   # Altered mental status: multifactorial
 related to CNS lymphoma and
   toxic metabolic.  Current improvement from no longer being
   supratherapeutic on anti-convsulants, and improved electrolytes. MRI
   showed incr size of lesions, but NeuroOnc does not think is the cause
   of her AMS. EEG showed no sz. Overall pt not able to get XRT to brain,
   and therefore prognosis poor. Patient is opening eyes, but is not
   following commands.   Dilantin level was 5.8 this AM
   - Redose dilantin at 75 [**Hospital1 **] with daily checks that is trending up and
   not too high.  Would not expect it to be therapeutic until Thursday.
   Continue keppra.
   .
   Respiratory failure: Pt was successfully extubated on [**2116-3-9**].  A
   family meeting was done prior to extubation and the decision was made
   not to reintubate should she decompensate.
   -complete 7 day course of vancomycin and zosyn on [**2116-3-10**]. d/c
   antibiotic tomorrow
   ..
   Hypernatremia: The patient had central DI supported by urine osms and
   lytes which required DDVAP and later resolved.  She then became
   hypernatremic again on [**2116-3-10**] . The etiology is thought to be
   malignancy invading hypothalamus.
   -1L of D5, recheck afternoon Na
    -UOP should be followed, she is currently has UOP in the normal range.
   .
   Severe sepsis: The pt was hypotensive, tachycardic, hypothermic, and in
   respiratory therapy.  She required levophed to maintain her BP.  Her
   urine cx, blood cx, and c diff all came back negative.  She had
   cystitis tx earlier in this admission.
   - complete a 7 day course of vanco and zosyn on [**2116-3-10**].
   -on stress dose steroids which can be decreased to prednisone 15mg PO
   on [**2116-3-11**] and per endocrine recs should be decreased by 5mg weekly but
   ultimately she should remain on prednisone 5mg daily given that she
   does have secondary adrenal insufficiency.
   .
   # CKD: The pt has a baseline creatinine of [**12-12**].3.  Her FENA supported
   that this was not prerenal.  She likely had ischemic ATN due to
   multiple episodes of hypotension. Her medications were renally dosed.
   She continues to have renal failure with creatinine of 3.5.
   -follow daily creatinine, no plan for dialysis
   .
   # Anemia: Likely anemia of chronic disease.  She required transfusion
   while in the ICU. HCT stable.
   -check daily HCT
   .
   # CN Lymphoma/Left Basal Ganglia Mass: Patient is s/p C3D1 Alimenta on
   [**2-13**]. No plans for inpatient treatement at this time.
   -Her oncology spoke to family about possibility of whole brain
   radiation today.
   -No pallative care consult as oncology attending would like to handle
   herself
   .
   # HTN: Holding all antihypertensives.
   -consider restarting BP meds tomorrow
   .
   # FEN: NPO for now
   -Oncology attending spoke to family about possibility of peg
   .
   # PPX:  DVT ppx with SQ Heparin  and a bowel regimen.
   .
   ACCESS: Portacath
   .
   CODE STATUS: DNR/DNI.  Family meeting occured prior to extubation and
   decision was made to move to CMO if pt acutely decompensated after
   exxtubation.  Oncology attending spoke at length with family today in
   family meeting and went over current options: 1) CMO on medicine floor
   2) management with medication but DNR/DNI and no dialysis 3) full
   code.  At this point pt still DNR/DNI and family will further discuss.
   .
   EMERGENCY CONTACT: [**Name (NI) **], [**Name (NI) 5276**]
   .
   DISPOSITION: Call out to floor- to either 7 [**Hospital Ward Name **]/[**Hospital Ward Name 1100**]
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2116-3-9**] 05:22 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  family meeting today see above under code
   status
   Code status: DNR/DNI
   Disposition: